US04032323
A solution of 5-amino-4-ethoxycarbonyl-3-methylisothiazole (prepared by the method of Goerdeler and Horn, op cit; 3.72 g.) in pyridine (10 ml.) was treated at 80° C. with methyl isocyanate (1.5 ml.) and the mixture was maintained at 80° C. for 6 hours. The mixture was then poured into an excess of dilute aqueous hydrochloric acid to give an off-white precipitate which was filtered off and recrystallised from ethanol to give colourless crystals of 1-(4-ethoxycarbonyl-3-methylisothiazol-5-yl)-3-methylurea (1.6 g.), m.p. 191°-193° C.

reactant | 5-amino-4-ethoxycarbonyl-3-methylisothiazole | NC1=C(C(=NS1)C)C(=O)OCC | C7H10N2O2S
reactant | methyl isocyanate | 1.5 ml | CN=C=O | C2H3NO
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 1-(4-ethoxycarbonyl-3-methylisothiazol-5-yl)-3-methylurea | 1.6 g | C(C)OC(=O)C=1C(=NSC1NC(=O)NC)C | C9H13N3O3S
